US07091353B2
A 4N HCl solution in dioxane (1 ml) was added to a stirred solution of 3-[(tert-butoxy)carbonylamino]-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}propanamide (0.5 g, 1.09 mmol) in CH2Cl2 (15 ml) and stirred for 17 hours. The resulting suspension was filtered to give 3-amino-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}propanamide hydrochloride (0.34 g, 79%) as a white solid: mp 161–163° C.; 1H NMR (DMSO-d6) δ d 11.15 (s, 1H), 8.88 (t, J=5.8 Hz, 1H), 8.06. (b, 3H), 7.87–7.79 (m, 3H), 5.19–5.12 (dd, J=5.3 and 12.6 Hz, 1H), 4.76 (d, J=5.8 Hz, 2H), 3.03–2.84 (m, 3H), 2.67–2.47 (m, 4H), 2.08–2.04 (m, 1H); 13C NMR (DMSO-d6) δ d 172.74, 169.88, 169.80, 167.45, 166.92, 138.92, 134.74, 133.46, 131.48, 127.09, 121.92, 48.86, 37.69, 35.11, 32.03, 30.92, 21.97; Anal. Calcd. For C17H19N4O5Cl+0.13 CH2Cl2+0.57 H2O: C, 49.44; H, 4.94; N, 13.46; Cl, 10.73. Found: C, 49.22; H, 4.88; N, 13.08; Cl, 10.95.

reactant | HCl | 4N | Cl | ClH
reactant | 3-[(tert-butoxy)carbonylamino]-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}propanamide | 1.09 mmol, 0.5 g | C(C)(C)(C)OC(=O)NCCC(=O)NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C22H26N4O7
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-amino-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}propanamide hydrochloride | 0.34 g, 79% | Cl.NCCC(=O)NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | InChI=1S/C17H18N4O5.ClH/c18-7-6-12(22)19-8-9-2-1-3-10-14(9)17(26)21(16(10)25)11-4-5-13(23)20-15(11)24;/h1-3,11H,4-8,18H2,(H,19,22)(H,20,23,24);1H
